US07230031B2
Ethyl N-[7-(3-acetyl-4-hydroxyphenoxy)-6-methylindan-4-yl]malonamate (Compound 43)
To a solution of ethyl N-[7-(3-acetyl-4-methoxyphenoxy)-6-methylindan-4-yl]malonamate (268 mg) in dichloromethane (15 mL) was added a 1 mol/L solution of boron trichloride in dichloromethane (1.9 mL) under ice-cooling, and the mixture was stirred at room temperature for 3 days. Ethanol was added to the reaction mixture, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1−1/1) to give the title compound (183 mg).

reactant | ethyl N-[7-(3-acetyl-4-methoxyphenoxy)-6-methylindan-4-yl]malonamate | 268 mg | C(C)(=O)C=1C=C(OC=2C(=CC(=C3CCCC23)NC(CC(=O)OCC)=O)C)C=CC1OC | C24H27NO6
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | Ethanol | C(C)O | C2H6O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.9 mL | ClCCl | CH2Cl2
product | Ethyl N-[7-(3-acetyl-4-hydroxyphenoxy)-6-methylindan-4-yl]malonamate | 183 mg | C(C)(=O)C=1C=C(OC=2C(=CC(=C3CCCC23)NC(CC(=O)OCC)=O)C)C=CC1O | C23H25NO6
